US04581368
(a) 1-(2-nitroimidazolyl)-2-hydroxy-3,4-epoxy butane
3-(2-Nitroimidazolyl)-2-hydroxy-1-butene (11.83 gms, m.p. 90°-92° C., prepared by refluxing a mixture of azomycin, 1,3-butadiene monoxide and anhydrous potassium carbonate in ethanol for 5 hours) is stirred overnight in dichloroethane with m-chloroperbenzoic acid in the presence of 3-tert-butyl-4-hydroxy-5-methylphenyl sulfide and after stirring the reaction mixture is refluxed for 1 hour. The mixture is washed with saturated sodium carbonate solution and the aqueous phase was extracted with chloroform. The combined dichloroethane and chloroform extracts are concentrated to a small volume and the product is purified by column chromatography, in which silica gel is the stationary phase and a mixture of chloroform (90%) and ethanol (10%) the eluent. The product is crystallised from ethanol as a pale yellow solid of m.p. 134°-136° C. Yield 33%.

reactant | 3-(2-Nitroimidazolyl)-2-hydroxy-1-butene | [N+](=O)([O-])C=1NC=C(N1)C(C(=C)O)C | C7H9N3O3
reactant | azomycin | C1=CN=C(N1)[N+](=O)[O-] | C3H3N3O2
reactant | 1,3-butadiene monoxide | C1C(C=C)O1 | C4H6O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-tert-butyl-4-hydroxy-5-methylphenyl sulfide | C(C)(C)(C)C=1C=C(C=C(C1O)C)SC1=CC(=C(C(=C1)C)O)C(C)(C)C | C22H30O2S
solvent | ethanol | C(C)O | C2H6O
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 1-(2-nitroimidazolyl)-2-hydroxy-3,4-epoxy butane | Yield 33% | [N+](=O)([O-])C=1NC=C(N1)CC(C1CO1)O | C7H9N3O4
